US04485106
A mixture was prepared from 6 g of 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine, 150 ml of methanol and 125 ml of 40% aqueous dimethylamine. This mixture was heated at reflux for 3 hours and then cooled. The precipitate which formed was separated by filtration and partitioned between methylene chloride and water. The organic layer was separated, dried over sodium sulfate, and concentrated to leave a residual solid. This was recrystallized from ethanol to give 6-dimethylamino-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine melting at about 239°-240° C.

reactant | 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | 6 g | ClC1=NN2C(C=3CCCCC13)=NN=N2 | C8H8ClN5
reactant | dimethylamine | 125 ml | CNC | C2H7N
solvent | methanol | 150 ml | CO | CH4O
product | 6-dimethylamino-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | CN(C1=NN2C(C=3CCCCC13)=NN=N2)C | C10H14N6
